US07476666B2
Step 2: 3-(Benzyloxy)-N-{4-fluoro-2-[(methylamino)carbonyl]benzyl}-5-methyl-4-oxo-7-pyridin-2-yl-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrazine-2-carboxamide
The title compound was prepared from methyl 4-(benzyloxy)-5-{[(2-hydroxy-2-pyridin-2-ylethyl)(methyl)amino]carbonyl}-1H-pyrazole-3-carboxylate using a procedure similar to that described in Example 43, Steps 2-4, except that 4-fluoro-2-[(methylamino)carbonyl]benzylamine hydrochloride was used in place of 4-fluorobenzylamine. Purification was achieved by removing the solvent in vacuo, and purifying the resulting residue by reverse phase chromatography on a C-18 column using a gradient elution of 95-5% H2O (0.1% TFA)/CH3CN (0.1% TFA). Collection and concentration of the appropriate fractions afforded the product. ES MS (M+1)=543.

reactant | methyl 4-(benzyloxy)-5-{[(2-hydroxy-2-pyridin-2-ylethyl)(methyl)amino]carbonyl}-1H-pyrazole-3-carboxylate | C(C1=CC=CC=C1)OC=1C(=NNC1C(=O)N(C)CC(C1=NC=CC=C1)O)C(=O)OC | C21H22N4O5
reactant | 4-fluoro-2-[(methylamino)carbonyl]benzylamine hydrochloride | Cl.FC1=CC(=C(CN)C=C1)C(=O)NC
product | 3-(Benzyloxy)-N-{4-fluoro-2-[(methylamino)carbonyl]benzyl}-5-methyl-4-oxo-7-pyridin-2-yl-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrazine-2-carboxamide | C(C1=CC=CC=C1)OC=1C(=NN2C1C(N(CC2C2=NC=CC=C2)C)=O)C(=O)NCC2=C(C=C(C=C2)F)C(=O)NC | C29H27FN6O4
